US06162826
1.578 g (3.53 mmol) of (1R,4aS,7aS)-7-t-butyldimethylsilyloxymethyl)-1-methoxy-4-(p-methoxybenzyloxymethyl)-1,4a,5,7a-tetrahydrocyclopenta[c]pyran was dissolved in 13 mg of tetrahydrofuran and then 3.8 ml (3.89 mmol) of tetrabutylammoniumfluoride (1M in THF) was added thereto. After stirring for 2 hours, the reaction was stopped by adding saturated aqueous sodium bicarbonate solution. The reaction solution was extracted with diethylether and saturated saline solution, dried over anhydrous magnesium sulfate, filtered, and concentrated. The residue was subjected to silica gel column chromatography (eluent: n-hexane/ethylacetate=3/1, v/v) to obtain 0.821 g (Yield 70%) of (1R,4aS,7aS)-7-hydroxymethyl-1-methoxy-4-(p-methoxybenzyloxymethyl)-1,4a,5,7a-tetrahydrocyclopenta[c]pyran as a colorless oil.

reactant | 1-methoxy-4-(p-methoxybenzyloxymethyl)-1,4a,5,7a-tetrahydrocyclopenta[c]pyran | COC1OC=C(C2C1C=CC2)COCC2=CC=C(C=C2)OC | C18H22O4
reactant | tetrabutylammoniumfluoride | 3.89 mmol, 1M, 3.8 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | n-hexane ethylacetate | CCCCCC.C(C)OC(C)=O
solvent | tetrahydrofuran | 13 mg | O1CCCC1 | C4H8O
product | (1R,4aS,7aS)-7-hydroxymethyl-1-methoxy-4-(p-methoxybenzyloxymethyl)-1,4a,5,7a-tetrahydrocyclopenta[c]pyran | 0.821 g, Yield 70% | OCC1=CC[C@H]2[C@@H]1[C@@H](OC=C2COCC2=CC=C(C=C2)OC)OC | C19H24O5
